US05134231
Ethyl (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylate (3 mg) and barium hydroxide (7 mg) were dissolved in a mixture of tetrahydrofuran and water (2:1) and stirred vigorously at room temperature for 1 hour. The reaction mixture was treated as in Reference Example 17 to give (2RS,3RS,4SR,5SR)-2-methyl-3-benzylamino-4-ethoxycarbonyl-5-hydroxyhexanoic acid.

reactant | Ethyl (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylate | 3 mg | CC1OC(C(C(C1C(=O)OCC)NCC1=CC=CC=C1)C)=O | C17H23NO4
reactant | barium hydroxide | 7 mg | [OH-].[Ba+2].[OH-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2RS,3RS,4SR,5SR)-2-methyl-3-benzylamino-4-ethoxycarbonyl-5-hydroxyhexanoic acid | CC(C(=O)O)C(C(C(C)O)C(=O)OCC)NCC1=CC=CC=C1 | C17H25NO5
